US09303012B2
b) Methyl 5-(3,3-difluoroazetidin-1-yl)-6-(2-fluoroethoxyl)pyridine-2-carboxylate
In analogy to the procedure described in Example 1 a), methyl 5-bromo-6-(2-fluoroethoxyl)pyridine-2-carboxylate (Example 147 a, 130 mg, 467 μmol) was reacted with 3,3-difluoroazetidine hydrochloride (CAN 288315-03-7, 66.6 mg, 514 μmol) in the presence of palladium (II) acetate, 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and cesium carbonate to give the title compound (73 mg, 54%) as light yellow solid, MS (ESI) m/e=291.1 [MH+].

reactant | methyl 5-bromo-6-(2-fluoroethoxyl)pyridine-2-carboxylate | BrC=1C=CC(=NC1OCCF)C(=O)OC | C9H9BrFNO3
reactant | 3,3-difluoroazetidine hydrochloride | 514 μmol, 66.6 mg | Cl.FC1(CNC1)F
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 5-(3,3-difluoroazetidin-1-yl)-6-(2-fluoroethoxyl)pyridine-2-carboxylate | 73 mg, 54% | FC1(CN(C1)C=1C=CC(=NC1OCCF)C(=O)OC)F | C12H13F3N2O3
